US08486970B2
To a mixed liquid of 1.00 g of tert-butyl piperidin-4-ylcarbamate and 20 ml of pyridine was added 0.77 ml of methanesulfonyl chloride, followed by stirring at room temperature for 18 hours. After evaporating the pyridine under reduced pressure, ethyl acetate was added thereto, followed by washing with a 5% aqueous citric acid solution, a saturated aqueous sodium hydrogen carbonate solution, and a saturated aqueous sodium chloride solution. After drying the organic layer over anhydrous magnesium sulfate, the solvent was evaporated, and the obtained solid was washed with diethyl ether to obtain 1.19 g of t-butyl[1-(methylsulfonyl)piperidin-4-yl]carbamate as a white solid.

reactant | tert-butyl piperidin-4-ylcarbamate | 1.00 g | N1CCC(CC1)NC(OC(C)(C)C)=O | C10H20N2O2
reactant | methanesulfonyl chloride | 0.77 ml | CS(=O)(=O)Cl | CH3ClO2S
solvent | pyridine | 20 ml | N1=CC=CC=C1 | C5H5N
product | t-butyl[1-(methylsulfonyl)piperidin-4-yl]carbamate | 1.19 g | C(C)(C)(C)OC(NC1CCN(CC1)S(=O)(=O)C)=O | C11H22N2O4S
